US05472962
3.2 g of 6-methoxybenzo[b]thiophene was dissolved in 3 ml of THF and the solution was cooled with ice. 18.6 ml of n-butyllithium (15% hexane solution) was gradually added in a stream of nitrogen and the mixture was stirred. A THF solution of 3.1 ml of cyclohexanone was added and the mixture was stirred at room temperature for 6 hours. 35 ml of saturated aqueous ammonium chloride solution was added to the reaction mixture, the resultant mixture was extracted with ether, and the extract was dried over anhydrous magnesium sulfate. The solvent was distilled off, and the resultant crude product was purified by TLC (developing solvent, chloroform) to obtain 2.8 g of 6-methoxy-2-(1-hydroxycyclohexyl)benzo[b]thiophene.

reactant | 6-methoxybenzo[b]thiophene | 3.2 g | COC=1C=CC2=C(SC=C2)C1 | C9H8OS
reactant | n-butyllithium | 18.6 ml | C(CCC)[Li]
reactant | cyclohexanone | 3.1 ml | C1(CCCCC1)=O | C6H10O
reactant | ammonium chloride | 35 ml | [Cl-].[NH4+]
solvent | THF | 3 ml | C1CCOC1 | C4H8O
product | 6-methoxy-2-(1-hydroxycyclohexyl)benzo[b]thiophene | 2.8 g | COC=1C=CC2=C(SC(=C2)C2(CCCCC2)O)C1 | C15H18O2S
